US07622463B2
Method G: Ethyl 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)piperidin-1-carboxylate (I-13)
2-Chloro-9-cyclopentyl-8,9-dihydro-5-methyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (100 mg, 0.357 mmol) and ethyl 4-aminopiperidine-1-carboxylate (129 μl, 0.714 mmol) in isopropylalcohol (2 ml) were heated at 90° C. for 24 hours. Diisopropylethylamine (125 μl, 0.714 mmol) was added and the reaction mixture was heated at 105° C. for another 24 hours. The crude mixture was concentrated in vacuo and purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 uM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min] to afford the title compound (18 mg) as an off-white powder. NMR DMSO D6 1.20 (3H, t), 1.28-1.91 (14H, m), 2.80-2.96 (2H, m), 3.11 (3H, s), 3.50-3.58 (2H, m), 3.70-3.85 (1H, m), 3.90-3.98 (2H, m), 4.03 (2H, q), 4.60-4.70 (1H, m), 6.65 (1H, br s), 7.88 (1H, s); HPLC rt(min): 8.09; MS (ES+) 417, (ES−) 415.

reactant | 2-Chloro-9-cyclopentyl-8,9-dihydro-5-methyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.357 mmol, 100 mg | ClC=1N=CC2=C(N(CCC(N2C)=O)C2CCCC2)N1 | C13H17ClN4O
reactant | ethyl 4-aminopiperidine-1-carboxylate | 0.714 mmol, 129 μl | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | Diisopropylethylamine | 0.714 mmol, 125 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropylalcohol | 2 ml | C(C)(C)O | C3H8O
product | Ethyl 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)piperidin-1-carboxylate | 18 mg | C1(CCCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2CCN(CC2)C(=O)OCC | C21H32N6O3
